US04880799
Ethyl 4H-imidazo(5,1-c)(1,4)benzothiazine-3-carboxylate.
Ethyl 4H,6H-imidazo(5,1-c)(4,1)benzthiazepine-3-carboxylate, M.p. 171.4°-171.7° C. by reaction between ethyl isocyanoacetate and 1,2,3,4 tetrahydro-2-oxo-4,1-benzthiazepine.

reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | 1,2,3,4 tetrahydro-2-oxo-4,1-benzthiazepine | O=C1NC2=C(CSC1)C=CC=C2 | C9H9NOS
product | Ethyl 4H-imidazo(5,1-c)(1,4)benzothiazine-3-carboxylate | C1=NC(=C2CSC3=C(N21)C=CC=C3)C(=O)OCC | C13H12N2O2S
